US07160892B2
2-Amino-6-(3-fluorophenyl)-5-(4-pyridyl)-3,4-dihydro-4-pyrimidinone
Sodium (3.2 g, 139 mmol) was dissolved in ethanol (200 mL), and then 4-pyridylacetonitrile (10.0 g, 64.7 mmol), 3-fluorobenzaldehyde (7.3 mL, 68.8 mmol) and guanidine hydrochloride (7.0 g, 73.3 mmol) were successively added thereto under ice-cooling, followed by heating under reflux for two days. The insoluble matters were filtered off, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography (eluent; dichloromethane, dichloromethane:methanol=20:1, 10:1, 5:1), to give the 5,6-dihydro form of the title compound (13.6 g) as a crude product. To the crude product was added sulfur (26.4 g, 82.3 mmol in terms of sulfur), followed by heating at 185° C. for 2.5 hours. After standing to cool, the reaction mixture was suspended in methanol. The insoluble matters were filtered off and washed with 2N hydrochloric acid. After concentrating methanol from the filtrate, the residue was washed with ethyl acetate twice. The aqueous layer was adjusted to pH 11 with a 5N aqueous sodium hydroxide solution, and washed with ethyl acetate twice. The aqueous layer was neutralized with 2N hydrochloric acid, and the resulting crystals were collected by filtration, and washed with water and ethyl acetate, to give the title compound (6.2 g, 34%) as a colorless solid. In this process, the title compound could also be obtained by isolating (E)-3-(3-fluorophenyl)-2-(4-pyridyl)-2-propenenitrile and then subjecting it to cyclization reaction with guanidine in a manner similar to that described for Referential Example 3.

reactant | Sodium | 139 mmol, 3.2 g | [Na] | Na
reactant | 4-pyridylacetonitrile | 64.7 mmol, 10.0 g | N1=CC=C(C=C1)CC#N | C7H6N2
reactant | 3-fluorobenzaldehyde | 68.8 mmol, 7.3 mL | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | guanidine hydrochloride | 73.3 mmol, 7.0 g | Cl.NC(=N)N
reactant | ethanol | 200 mL | C(C)O | C2H6O
product | 2-Amino-6-(3-fluorophenyl)-5-(4-pyridyl)-3,4-dihydro-4-pyrimidinone | 13.6 g | NC1=NC(=C(C(N1)=O)C1=CC=NC=C1)C1=CC(=CC=C1)F | C15H11FN4O
